US09145419B2
23B. 8-(Pyridin-3-yl)imidazo[1,2-b]pyridazine
To a suspension of 6-chloro-8-(pyridin-3-yl)imidazo[1,2-b]pyridazine (160 mg, 0.69 mmol) in EtOH (15 mL) was added ammonium formate (175 mg, 2.77 mmol) and palladium hydroxide on carbon (50 mg, 0.07 mmol) (20% wet) under nitrogen. The reaction mixture was heated to 50° C. for 20 min and cooled to room temperature. The reaction mixture was passed through a pad of CELITE® and washed with MeOH. The filtrate was concentrated and the residue was purified by BIOTAGE® (20-60% EtOAc/CH2Cl2, 1.5 L) to give the product (99 mg, 73%). LC (Condition B & C): >95% homogeneity index. LC/MS: Rt=0.31 min. LC/MS (Condition A): 197.21.

reactant | 6-chloro-8-(pyridin-3-yl)imidazo[1,2-b]pyridazine | 0.69 mmol, 160 mg | ClC=1C=C(C=2N(N1)C=CN2)C=2C=NC=CC2 | C11H7ClN4
reactant | ammonium formate | 2.77 mmol, 175 mg | C(=O)[O-].[NH4+]
solvent | EtOH | 15 mL | CCO | C2H6O
catalyst | palladium hydroxide on carbon | 0.07 mmol, 50 mg | [OH-].[OH-].[Pd+2]
product | 8-(Pyridin-3-yl)imidazo[1,2-b]pyridazine | 99 mg, 73% | N1=CC(=CC=C1)C=1C=2N(N=CC1)C=CN2 | C11H8N4
